US05110956
(b) 5-(2-Benzyloxyethyl)-6-methyl-1,3-benzodioxole
3.0 g of 5-(2-benzyloxyethyl)-6-bromo-1,3-benzodioxole was dissolved in 100 m(of anhydrous ether. 8.5 ml of a 1.6 M solution of n-butyllithium in hexane was added to the solution at -78° C. and the reaction was conducted at -50° C. for 2 h. The reaction mixture was cooled again to -78° C. 6.4 g of methyl iodide was added thereto and the temperature was gradually elevated to room temperature. Methanol and water were added to the reaction mixture. After extraction with ethyl acetate, the extract was dried over magnesium sulfate and concentrated under reduced pressure to obtain a crude methyl compound. After purification according to silica gel column chromatography (ethyl acetate/ hexane=2:98), 1.9 g of the intended compound was obtained in the form of a pale yellow oil.

reactant | 5-(2-benzyloxyethyl)-6-bromo-1,3-benzodioxole | 3.0 g | C(C1=CC=CC=C1)OCCC1=CC2=C(OCO2)C=C1Br | C16H15BrO3
reactant | n-butyllithium | C(CCC)[Li]
reactant | methyl iodide | 6.4 g | CI | CH3I
reactant | Methanol | CO | CH4O
solvent | ether | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | 5-(2-Benzyloxyethyl)-6-methyl-1,3-benzodioxole | 1.9 g | C(C1=CC=CC=C1)OCCC1=CC2=C(OCO2)C=C1C | C17H18O3
